US06900223B2
Preparation of Ethyl 4-chloro-1-methyl-6-oxo-6,7-dihydro-1H-pyrazolo-[3,4-b]pyridine-5-carboxylate
A solution of ethyl 4-hydroxy-1-methyl-6-oxo-6,7-dihyrdo-1H-pyrazolo-[3,4-b]pyridine-5-carboxylate (10 g, 42.2 mmol) in acetonitrile is treated with benzyl triethyl ammonium chloride (40.4 g, 169 mmol), followed by phosphorous oxychloride (17.6 mL, 190 mmol), heated at 40° C. for 0.5 h, then at reflux temperature for 2.5 h, cooled to room temperature, diluted with water (caution exotherm), stirred at ambient temperatures for 16 h and filtered. The filtercake is washed with cyclohexane and dried in vacuo to give the title compound as a white solid, 7.87 g (73% yield), identified by HNMR analysis.

reactant | ethyl 4-hydroxy-1-methyl-6-oxo-6,7-dihyrdo-1H-pyrazolo-[3,4-b]pyridine-5-carboxylate | 42.2 mmol, 10 g | OC=1C2=C(NC(C1C(=O)OCC)=O)N(N=C2)C | C10H11N3O4
reactant | phosphorous oxychloride | 190 mmol, 17.6 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | acetonitrile | C(C)#N | C2H3N
catalyst | benzyl triethyl ammonium chloride | 169 mmol, 40.4 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | water | O | H2O
product | Ethyl 4-chloro-1-methyl-6-oxo-6,7-dihydro-1H-pyrazolo-[3,4-b]pyridine-5-carboxylate | 73% yield | ClC=1C2=C(NC(C1C(=O)OCC)=O)N(N=C2)C | C10H10ClN3O3
